US07109354B2
a) 4-Methoxymethoxy-biphenyl
To an oven-dried flask containing a stirbar was added 4-hydroxybiphenyl (1.70 g, 10 mmol), toluenesulfonic acid (190 mg, 1.1 mmol), dichloromethane (DCM, 5 mL), and dimethoxypropane (5 mL). The solution was heated and stirred at 40° C. for 48 h. Solid NaHCO3 (200 mg) was added, followed by EtOAc (100 mL) and NaOH (1N, 20 mL). The layers were separated and the organic layer was further extracted with NaOH (1N, 12×20 mL), brine (30 mL), and was dried over sodium sulfate. Removal of the solvents in vacuo yielded the title compound (385 mg, 18%) which was used without further purification. 1H-NMR (CDCl3); δ 7.56 (m, 4H), 7.44 (m, 2H), 7.34 (m, 1H), 7.14 (m, 2H), 5.24 (s, 2H), 3.54 (s, 3H).

reactant | 4-hydroxybiphenyl | 10 mmol, 1.70 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | toluenesulfonic acid | 1.1 mmol, 190 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | dimethoxypropane | 5 mL | COC(C)(C)OC | C5H12O2
reactant | NaHCO3 | 200 mg | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-Methoxymethoxy-biphenyl | 385 mg, 18% | COCOC1=CC=C(C=C1)C1=CC=CC=C1 | C14H14O2
